US09403810B2
Step 4: N-(2-Cyclohexyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-5-formyl-4-methylisoxazole-3-carboxamide
To a solution of N-(2-Cyclohexyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-4-methyl-5-vinylisoxazole-3-carboxamide (53 mg, 0.154 mmol) in THF (1 mL) and water (0.5 mL) was added sodium periodate (99 mg, 0.462 mmol) and Os EnCat™ (Microencapsulated OsO4) (10.26 mg, 3.08 μmol). The reaction mixture was stirred at room temperature overnight. The resulting mixture was filtered through a cotton wool plug and the eluent was concentrated under reduced pressure to afford the title compound;

reactant | N-(2-Cyclohexyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-4-methyl-5-vinylisoxazole-3-carboxamide | 0.154 mmol, 53 mg | C1(CCCCC1)N1N(C(=C(C1=O)NC(=O)C1=NOC(=C1C)C=C)C)C | C18H24N4O3
reactant | sodium periodate | 0.462 mmol, 99 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
catalyst | OsO4 | O=[Os](=O)(=O)=O
product | N-(2-Cyclohexyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-5-formyl-4-methylisoxazole-3-carboxamide | C1(CCCCC1)N1N(C(=C(C1=O)NC(=O)C1=NOC(=C1C)C=O)C)C | C17H22N4O4
